US07919628B2
19.9 g Dichloromethyl methyl ether and 45.7 g tin chloride were dissolved in 70 mL dichloromethane. The solution was cooled to +5° C. and 20.0 g fluoronapthalene in dichloromethane (49 mL) was added over a 60 min period, while keeping the temperature at 5° C. The reaction was brought to room temperature after the addition. After 4 h the reaction was quenched by slowly pouring it into an ice/water mixture. This mixture was stirred for 15 min and left standing overnight. The dichloromethane layer was washed with water, dried (sodium sulfate), filtered through celite and concentrated in vacuo to obtain 24.0 g of 4-fluoro-naphthalene-1-carbaldehyde as an off white solid.

reactant | Dichloromethyl methyl ether | 19.9 g | COC(Cl)Cl | C2H4Cl2O
reactant | tin chloride | 45.7 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | fluoronapthalene | 20.0 g | FC1=CC=CC2=CC=CC=C12 | C10H7F
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 49 mL | ClCCl | CH2Cl2
product | 4-fluoro-naphthalene-1-carbaldehyde | 24.0 g | FC1=CC=C(C2=CC=CC=C12)C=O | C11H7FO
